US04716237
2,4,4-Trimethyl-3-oxopentanenitrile
234.6 grams (2 moles) of methyl pivalate and 120 grams (2 moles) of sodium hydride (80 weight % suspension in white oil) were heated to 90° C. in 1500 ml of dry toluene. There were dropped in at this temperature after addition of 1 ml of methanol 233.3 grams (2 moles) of propionitrile within 2.5 hours. After the end of the development of hydrogen the suspension was extracted with a total of 1200 ml of water and after phase separation the aqueous phase was acidified with concentrated HCl to a pH of 2. The deposited oil was separated off, the water phase extracted with chloroform, the organic extracts combined, dried and concentrated. The residue was fractionated in a water jet vacuum. 2,4,4-trimethyl-3-oxopentanenitrile came over at 87° C./11 Torr in an amount of 226.1 grams (81.2% of theory).

reactant | methyl pivalate | 2 moles, 234.6 grams | C(C(C)(C)C)(=O)OC | C6H12O2
reactant | sodium hydride | 2 moles, 120 grams | [H-].[Na+]
reactant | methanol | 2 moles, 1 ml, 233.3 grams | CO | CH4O
reactant | propionitrile | C(CC)#N | C3H5N
solvent | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,4-Trimethyl-3-oxopentanenitrile | CC(C#N)C(C(C)(C)C)=O | C8H13NO
